US08865726B2
To a sealed tube were added (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one (0.100 g, 0.308 mmol), 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole (0.160 g, 0.400 mmol), in dioxane (1.6 mL) and 2.0 M Na2CO3 (0.461 ml, 0.923 mmol). The mixture was degassed by bubbling N2 through the solution. Pd2 dba3 (0.0141 g, 0.0154 mmol) and dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (0.0147 g, 0.0308 mmol) were added and the vessel was sealed under a N2 atmosphere. The mixture was heated at 90° C. for 18 hours. The reaction mixture was cooled to ambient temperature, filtered through GF/F paper, diluted with H2O and separated, and the aqueous layer was further extracted with EtOAc. The combined organic extracts were washed with brine, dried and concentrated. Purification of the crude material by normal phase chromatography, eluting with 1-25% EtOAc/dichloromethane, provided (S)-4-propyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one as a bright yellow-orange foamy solid (0.115 g, 72%). LCMS (APCI+) m/z 520 [M+H]+.

reactant | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-propyloxazolidin-2-one | 0.308 mmol, 0.100 g | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2CCC)=O | C12H13BrN4O2
reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | 0.400 mmol, 0.160 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C | C20H32BN3O3Si
reactant | Na2CO3 | 0.923 mmol, 2.0 M, 0.461 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.0308 mmol, 0.0147 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.0154 mmol, 0.0141 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-4-propyl-3-(3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)oxazolidin-2-one | 0.115 g, 72% | C(CC)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C2=NN(C=N2)COCC[Si](C)(C)C | C26H33N7O3Si
